US07989461B2
Preparation of 3-bromo-2-methylthieno[2,3-c]pyridine-N-Oxide
3-Bromo-2-methylthieno[2,3-c]pyridine (0.500 g, 2.19 mmol) was dissolved in DCM (10 ml) and cooled down to 0° C. m-Chloroperbenzoic acid (0.737 g, 3.29 mmol) was added to the reaction portionwise while stirring. After 4 hours, the reaction wad diluted with 1N NaOH (10 ml) and DCM (10 ml). The layers were separated and the organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate, reduced in vacuo and dried to give the title compound as a yellow solid. MS (M+H)+ 245

reactant | 3-Bromo-2-methylthieno[2,3-c]pyridine | 2.19 mmol, 0.500 g | BrC1=C(SC2=CN=CC=C21)C | C8H6BrNS
reactant | m-Chloroperbenzoic acid | 3.29 mmol, 0.737 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 10 ml | [OH-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-2-methylthieno[2,3-c]pyridine-N-Oxide | BrC1=C(SC2=C[N+](=CC=C21)[O-])C | C8H6BrNOS
